### PR TITLE
is_derive1_sqrt lemma 

### PR DESCRIPTION
**Pull request by yosakaon**
Co-authored with @affeldt-aist 
##### Motivation for this change
This PR introduces the lemma is_derive1_sqrt, establishing the derivability of the square root function at any strictly positive real number and provides its derivative formula.
This result is essential to prove of the derivability of the norm function and such calculations.

##### Checklist

- [ ] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [ ] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Merge policy

As a rule of thumb:
- PRs with several commits that make sense individually and that
  all compile are preferentially merged into master.
- PRs with disorganized commits are very likely to be squash-rebased.

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/realfun.v [hunk 1]
```diff
@@ -1763,6 +1763,42 @@ Unshelve. all: by end_near. Qed.
 
 End is_derive_inverse.
 
+Global Instance is_derive1_sqrt {K : realType} (x : K) : 0 < x -> is_derive x 1 Num.sqrt (2 * Num.sqrt x)^-1.
```
Comment (t6s) [inline theories/realfun.v]: this line is too long

```suggestion
Global Instance is_derive1_sqrt {K : realType} (x : K) :
  0 < x -> is_derive x 1 Num.sqrt (2 * Num.sqrt x)^-1.
```

**Review by t6s — APPROVED** [review]
looks good

File: classical/unstable.v [hunk 2]
```diff
@@ -483,3 +483,6 @@ Notation " R ~~> R' " := (@respectful _ _ (Program.Basics.flip (R%signature)) (R
 
 Export -(notations) Morphisms.
 End ProperNotations.
+
+Lemma sqrK {K : rcfType} : {in Num.pos, cancel (@Num.sqrt K) (fun x => x ^+ 2)}.
+Proof. by move=> r r0; rewrite sqr_sqrtr// ltW. Qed.
```
Comment (CohenCyril) [inline classical/unstable.v:488]: This looks redundant with `sqr_sqrt`, (and slightly weaker since `Num.pos` can be weakened to `Num.nneg`).
If kept, it should be generalized and renamed `sqrtK` (the prefix of a `K` lemma is the section / thing being cancelled)

Comment (affeldt-aist) [reply classical/unstable.v:488]: Sorry for having been too hasty, will fix asap in a new PR.

Comment (CohenCyril) [reply classical/unstable.v:488]: (an in the long run, we should actually replace `sqr_sqrt` which has an equivalent statement written in an expanded way and which name is not as canonical as `sqrtK`)
